US07319098B2
Synthesis of 1-(2-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride (Compound 89)
2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-pyrrolidin-1-yl-ethylamine (100 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 106 mg (75%) was obtained by following the procedure described in Example 1.

reactant | 2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C16H10ClNO4
reactant | 2-pyrrolidin-1-yl-ethylamine | 0.792 mmol, 100 μL | N1(CCCC1)CCN | C6H14N2
product | 1-(2-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride | [Cl-].ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCCC2)=O)C=C1 | InChI=1S/C22H22ClN3O3.ClH/c23-17-6-3-15(4-7-17)14-26-21(28)18-8-5-16(13-19(18)22(26)29)20(27)24-9-12-25-10-1-2-11-25;/h3-8,13H,1-2,9-12,14H2,(H,24,27);1H
